### ISSUE TITLE
grind_hom does not recognize arithmetic properties of constant bitmasks

### ISSUE THREAD

**Issue by andres-erbsen** [leanprover/lean4#15260]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] [Test](https://live.lean-lang.org/#project=lean-nightly&codez=JYWwDg9gTgLgBASQHbBgOgOJWEgJgKFElkRXQBEBDGStAIVQDUBTAY330oCMupmA3OAxgtWaAK5IAzsADmSZrjgBvAO4BfOAAoAHnABcQpmziqAlAdLx9AXitoIAMwBy1ODrQwIrmBwC0fnAAYpTAADZS%2BMw6lOBhzNp6hsKicABsACwWhrpwAGQFcADMAIxmEtJyCkoAPMUATAZ2XACecLLYeP6BIeFS2o6SuLHMSDRhcD5w8fzMYWZRMXEJuYY%2B2e75haVwdUWNtnCt7Z0EHNGxYPGJlikmmRu5BXnpReWSMvKKcHYeH1XfACk6QyTSObQ6ODOAWCoQiAyGIzGlAmUxmcwWF2WNzW1A2emerx%2Bm2BmTBx0hXXwMN6EUWl2uqyMInuWUsT0KAD9uaV3pUvkpgftiQAGckQ07dWF9BF4JHjSZudHzenYpnrdkEwoinRBPX6g0GgCiIosQsadjFhwpkqAA) your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`grind` fails to prove simple bounds and algebraic identities involving bitwise AND (`&&&`), both for `BitVec` and `Nat`. Specifically, it does not automatically deduce upper bounds like `x &&& mask <= mask` nor does it recognize identities like `x &&& (2^n - 1) = x % 2^n`. Divisibility by powers of two resulting from consecutive zeros in the low bits of the mask is also not recognized.

### Context

This limitation was encountered while verifying bitvector arithmetic operations using the `grind` tactic. Masking to ensure that a value is in range is a common pattern in low-level code. The same case is also tested in #15224

#### Case 1: Missing Upper Bound
```lean
import Init.Grind
import Init.Data.BitVec

abbrev BitVec.unsigned {w} (x : BitVec w) : Int := Int.ofNat x.toNat

-- Fails
example (x : BitVec 64) : (x &&& 31).unsigned < 32 := by grind

-- Fails
example (x : Nat) : x &&& 31 < 32 := by grind
```

#### Case 2: Missing Algebraic Identity `x &&& (2^n - 1) = x % 2^n`
```lean
-- Fails
example (x : BitVec 64) : (x &&& 63).unsigned = x.unsigned % 64 := by grind

-- Fails
example (x : Nat) : x &&& 63 = x % 64 := by grind
```

#### Case 3: Missing Divisibility Information from Mask
```lean
-- Fails
example (x : BitVec 64) : (x &&& ~~~31).unsigned % 32 = 0 := by grind

-- Fails
example (x : Nat) : (x &&& 0xFFFFFFFFFFFFFFE0) % 32 = 0 := by grind
```

**Expected behavior:** 
1. `grind` should automatically prove x && 31 < 32 by utilizing upper bounds like `Nat.and_le_right`.
2. `grind` should recognize that x&&63 is equivalent to x%64 for powers of 2 minus one.
3. `grind` should deduce that if the lowest $k$ bits of a mask are 0, then x&&&mask is divisible by $2^k$.

**Actual behavior:** These goals are not solved.

### Versions

Lean (version 4.36.0-pre, x86_64-pc-linux-gnu, Release)
OS: Linux

### Additional Information

Providing `Nat.and_le_right` fixes Case 1:
```lean
example (x : BitVec 64) : (x &&& 31).unsigned < 32 := by grind [Nat.and_le_right]
example (x : Nat) : x &&& 31 < 32 := by grind [Nat.and_le_right]
```

However, a `grind_hom`-based solution would likely be preferable due to better performance of that mechanism.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
